US04517130
To 17.7 g (110 mmol) of 4-amino-benzotrifluoride at 10° was added 3.5 g (130 mmol) of hydrogen cyanide. This solution was placed in a -15° dry ice-isopropyl alcohol bath. Pure isobutyraldehyde (7.9 g, 110 mmol) was added dropwise to the solution, maintaining a solution temperature of 15°-16°. The initial reaction mixture contained no water, and the water produced in the reaction did not exceed 6.8 wt. % of the reaction mixture. The ice bath was removed and the mixture was heated briefly to 48° and then allowed to cool to room temperature. The mixture was poured into ether, washed with 2.5N sodium hydroxide and then with water, dried over sodium sulfate, filtered and stripped to give the crude product, which upon recrystallization in ether/hexane yielded 3-methyl-2-(4-trifluoromethylphenylamino)butyronitrile, m.p. 64.5°-67°, 83% yield.

reactant | 4-amino-benzotrifluoride | 110 mmol, 17.7 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | hydrogen cyanide | 130 mmol, 3.5 g | C#N | CHN
reactant | isobutyraldehyde | 110 mmol, 7.9 g | C(C(C)C)=O | C4H8O
solvent | water | O | H2O
product | 3-methyl-2-(4-trifluoromethylphenylamino)butyronitrile | 83% yield | CC(C(C#N)NC1=CC=C(C=C1)C(F)(F)F)C | C12H13F3N2
